US08278343B2
Preparation 45: 3-[4-(5-Fluoro-pyrimidin-2-yl)-phenoxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 29 using 4-(5-fluoro-pyrimidin-2-yl)-phenol (Preparation 20) and 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (Preparation 15) to afford the racemate as a white solid (85 mg, 49%)

reactant | 4-(5-fluoro-pyrimidin-2-yl)-phenol | FC=1C=NC(=NC1)C1=CC=C(C=C1)O | C10H7FN2O
reactant | 3-iodomethyl-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)CI | C16H20INO4
product | 3-[4-(5-Fluoro-pyrimidin-2-yl)-phenoxymethyl]-1-(2-methoxy-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CC1)C(C1=C(C=CC=C1)OC)=O)COC1=CC=C(C=C1)C1=NC=C(C=N1)F | C26H26FN3O5
